US05420275
3-Amino-4,5-diethoxycarbonyl-2-phenyl-6-(p-tolylsulfonyl)pyridine
In 10 ml of ethanol was suspended 0.35 g of 3,4-diethoxycarbonyl-5-nitro-6-phenyl-2-(p-tolylsulfonyl)pyridine, whereto 2 ml of acetic acid and 0.15 g of reduced iron were added. The mixture was stirred at 80° C. for 4.5 hours. After ethanol was distilled off, the residue was neutralized with an aqueous solution of sodium hydrogencarbonate, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over sodium sulfate, followed by concentration under reduced pressure. The residue was subjected to silica gel flash column chromatography with chloroform/ethyl acetate (4:1) as the eluent, to give 0.144 g of the title compound.

reactant | 3,4-diethoxycarbonyl-5-nitro-6-phenyl-2-(p-tolylsulfonyl)pyridine | 0.35 g | C(C)OC(=O)C=1C(=NC(=C(C1C(=O)OCC)[N+](=O)[O-])C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C | C24H22N2O8S
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | 3-Amino-4,5-diethoxycarbonyl-2-phenyl-6-(p-tolylsulfonyl)pyridine | 0.144 g | NC=1C(=NC(=C(C1C(=O)OCC)C(=O)OCC)S(=O)(=O)C1=CC=C(C=C1)C)C1=CC=CC=C1 | C24H24N2O6S
